US04415652
A mixture of 25 g of a commercial styrene/maleic anhydride copolymer (1/1 molar ratio, Mn 1600) and 250 mL of glacial acetic acid was stirred under nitrogen while 7.1 g of allylamine was added dropwise over a period of 10 min. The mixture was then heated at 114° for 2 hours. The clear solution was cooled, treated with 0.125 g of 2,6-di-tert-butyl-4-methylphenol, and added with stirring to about 2500 mL of water. The precipitated polymer was filtered, washed, re-dissolved in about 700 mL of acetone and again precipitated in excess water acidified with 10 mL of concentrated hydrochloric acid/liter. The resultant polymer was dried to constant weight under vacuum. The N-allylmaleimide copolymer was obtained as a white powder; weight 25.4 g. The infrared spectrum showed imide absorption at 1705 cm-1 and 1775 cm-1, and essentially no anhydride or amide absorption was seen. The nmr spectrum was also consistent with the styrene/N-allylmaleimide structure. The nitrogen analysis and nmr spectrum indicated about 75% conversion of anhydride groups to N-allylmaleimide groups, and complete hydrolysis was indicated for the remainder of the anhydride units. Found, N 4.38%.

reactant | acetic acid | 250 mL | C(C)(=O)O | C2H4O2
reactant | allylamine | 7.1 g | C(C=C)N | C3H7N
reactant | 2,6-di-tert-butyl-4-methylphenol | 0.125 g | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
solvent | water | about 2500 mL | O | H2O
product | N-allylmaleimide | C(C=C)N1C(C=CC1=O)=O | C7H7NO2
